US07888344B2
2-Bromo-5-methylcyclohexane-1,3-dione
To a stirred solution of 5-methylcyclohexane-1,3-dione (1.26 g, 10 mmol) in AcOH (20 mL) at r.t. was added bromine (1.6 g, 0.51 mL, 10 mmol) dropwise. The reaction was carried out according to Method A to give the title compound in quantitative yield as a light brown solid which was used without further purification. LCMS (ES+) 204.9 (M+H)+.

reactant | 5-methylcyclohexane-1,3-dione | 10 mmol, 1.26 g | CC1CC(CC(C1)=O)=O | C7H10O2
reactant | bromine | 10 mmol, 0.51 mL, 1.6 g | BrBr | Br2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 2-Bromo-5-methylcyclohexane-1,3-dione | quantitative yield | BrC1C(CC(CC1=O)C)=O | C7H9BrO2
